US07799787B2
6-[4-(2-Methoxybenzyl)piperidin-1-yl]-N-(3-methylbutyl)pyridazine-3-carboxamide
The title compound was prepared in the same manner as described for Example 16 from 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide and 4-(2-methoxybenzyl)piperidine. MS (+ESI) m/z 397 (MH+).

reactant | 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide | ClC1=CC=C(N=N1)C(=O)NCCC(C)C | C10H14ClN3O
reactant | 4-(2-methoxybenzyl)piperidine | COC1=C(CC2CCNCC2)C=CC=C1 | C13H19NO
product | 6-[4-(2-Methoxybenzyl)piperidin-1-yl]-N-(3-methylbutyl)pyridazine-3-carboxamide | COC1=C(CC2CCN(CC2)C2=CC=C(N=N2)C(=O)NCCC(C)C)C=CC=C1 | C23H32N4O2
